### PR TITLE
feat(Analysis/CStarAlgebra/Matrix): CompactSpace instances for unitaryGroup and specialUnitaryGroup

### PR DESCRIPTION
**Pull request by anovickis**
Adds `CompactSpace` instances (and supporting `IsClosed` / `IsCompact` lemmas) for the matrix unitary and special unitary groups.

The compactness follows from Heine-Borel applied to the entrywise sup norm: every unitary matrix has all entries bounded by `1` (via the existing `entry_norm_bound_of_unitary` lemma), and `Matrix n n 𝕜` is finite-dimensional, so `closed + bounded ⇒ compact`.

### New declarations

- `isClosed_unitaryGroup`, `isCompact_unitaryGroup`
- `instance Matrix.unitaryGroup.instCompactSpace`
- `isClosed_specialUnitaryGroup`, `isCompact_specialUnitaryGroup`
- `instance Matrix.specialUnitaryGroup.instCompactSpace`

All placed inside the existing `EntrywiseSupNorm` section in `Mathlib/Analysis/CStarAlgebra/Matrix.lean`, so the `Matrix.Norms.Elementwise` scope used for the bound is already in scope.

### Motivation

These instances enable downstream constructions of compact matrix Lie groups such as flag manifolds (e.g. SU(3)/T = F₂), where the quotient inherits compactness for free via `Quotient.compactSpace`. They also fill an obvious gap in the matrix-group API: `unitary R` is known to be closed, but compactness for `Matrix.unitaryGroup` was not previously available as an instance.

Claude Code / Anthropic was used for generating the code,   Verification was done with lake build, each lemma reviewed.   Proofs came out of F2 mass gap lean library - so compile verified

### CODE REVIEW

File: Mathlib/Analysis/CStarAlgebra/Matrix.lean [hunk 1]
```diff
@@ -84,6 +87,59 @@ theorem entrywise_sup_norm_bound_of_unitary {U : Matrix n n 𝕜} (hU : U ∈ Ma
   intros
   exact entry_norm_bound_of_unitary hU _ _
 
+section Compact
+
+set_option backward.isDefEq.respectTransparency false
```
Comment (wwylele) [inline Mathlib/Analysis/CStarAlgebra/Matrix.lean:92]: I did a quick test on Lean web and it doesn't look like this is necessary

File: Mathlib/Analysis/CStarAlgebra/Matrix.lean [hunk 2]
```diff
@@ -84,6 +87,59 @@ theorem entrywise_sup_norm_bound_of_unitary {U : Matrix n n 𝕜} (hU : U ∈ Ma
...
+open scoped Matrix.Norms.Elementwise
```
Comment (wwylele) [inline Mathlib/Analysis/CStarAlgebra/Matrix.lean:93]: This is only used internally by `isCompact_unitaryGroup`. To emphasize the fact that the public statement doesn't rely on any particular norm, you can put `open scoped Matrix.Norms.Elementwise in` as the first line after `by`

**Review by wwylele — COMMENTED** [review]
If you used AI, could you disclose it according to the [guideline](https://leanprover-community.github.io/contribute/index.html#use-of-ai)? In particular, writing comments on github using LLM is not allowed.

File: Mathlib/Analysis/CStarAlgebra/Matrix.lean [hunk 3]
```diff
@@ -84,6 +87,59 @@ theorem entrywise_sup_norm_bound_of_unitary {U : Matrix n n 𝕜} (hU : U ∈ Ma
...
+
+/-- The unitary group `Matrix.unitaryGroup n 𝕜` is closed inside `Matrix n n 𝕜`. -/
+theorem isClosed_unitaryGroup :
+    IsClosed (Matrix.unitaryGroup n 𝕜 : Set (Matrix n n 𝕜)) := by
+  have h_eq : (Matrix.unitaryGroup n 𝕜 : Set (Matrix n n 𝕜)) = { U | U * star U = 1 } := by
+    ext U; simp [Matrix.mem_unitaryGroup_iff]
+  rw [h_eq]
+  exact isClosed_singleton.preimage (by fun_prop)
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/Matrix.lean:101]: This already exists as `isClosed_unitary` (and it works for `Matrix.unitaryGroup` since that is an `abbrev`).

File: Mathlib/Analysis/CStarAlgebra/Matrix.lean [hunk 4]
```diff
@@ -84,6 +87,59 @@ theorem entrywise_sup_norm_bound_of_unitary {U : Matrix n n 𝕜} (hU : U ∈ Ma
...
+/-- The unitary group `Matrix.unitaryGroup n 𝕜` is compact: it is closed in the
+finite-dimensional normed space `Matrix n n 𝕜` and bounded by `1` in the entrywise sup norm. -/
+theorem isCompact_unitaryGroup :
+    IsCompact (Matrix.unitaryGroup n 𝕜 : Set (Matrix n n 𝕜)) := by
+  rw [Metric.isCompact_iff_isClosed_bounded]
+  refine ⟨isClosed_unitaryGroup, ?_⟩
+  refine (Metric.isBounded_closedBall (x := (0 : Matrix n n 𝕜)) (r := 1)).subset ?_
+  intro U hU
+  rw [Metric.mem_closedBall, dist_zero_right]
+  exact entrywise_sup_norm_bound_of_unitary hU
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/Matrix.lean]: The metric structure is only needed for the proof, so I would instead only open the scope within the proof. Also, it can be golfed using dedicated lemmas like so:
```suggestion
  open scoped Matrix.Norms.Elementwise in
  exact Metric.isCompact_of_isClosed_isBounded isClosed_unitary <|
    isBounded_iff_forall_norm_le.mpr ⟨1, fun _ ↦ entrywise_sup_norm_bound_of_unitary⟩
```
Note you need to import `Mathlib.Topology.Algebra.Star.Unitary` to get the `isClosed_unitary` lemma.

File: Mathlib/Analysis/CStarAlgebra/Matrix.lean [hunk 5]
```diff
@@ -84,6 +87,59 @@ theorem entrywise_sup_norm_bound_of_unitary {U : Matrix n n 𝕜} (hU : U ∈ Ma
...
+/-- The special unitary group `Matrix.specialUnitaryGroup n 𝕜` is closed inside
+`Matrix n n 𝕜`. -/
+theorem isClosed_specialUnitaryGroup :
+    IsClosed (Matrix.specialUnitaryGroup n 𝕜 : Set (Matrix n n 𝕜)) := by
+  have h_inter : (Matrix.specialUnitaryGroup n 𝕜 : Set (Matrix n n 𝕜))
+      = (Matrix.unitaryGroup n 𝕜 : Set (Matrix n n 𝕜)) ∩ { U | U.det = 1 } := by
+    ext U
+    simp [Matrix.specialUnitaryGroup, Set.mem_inter_iff]
+  rw [h_inter]
+  exact isClosed_unitaryGroup.inter (isClosed_singleton.preimage (by fun_prop))
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/Matrix.lean:125]: I would remove this an go directly for compactness.

File: Mathlib/Analysis/CStarAlgebra/Matrix.lean [hunk 6]
```diff
@@ -84,6 +87,59 @@ theorem entrywise_sup_norm_bound_of_unitary {U : Matrix n n 𝕜} (hU : U ∈ Ma
...
+
+/-- The special unitary group is compact, as a closed subset of the unitary group. -/
+theorem isCompact_specialUnitaryGroup :
+    IsCompact (Matrix.specialUnitaryGroup n 𝕜 : Set (Matrix n n 𝕜)) :=
+  isCompact_unitaryGroup.of_isClosed_subset isClosed_specialUnitaryGroup
+    Matrix.specialUnitaryGroup_le_unitaryGroup
```
Comment (j-loreaux) [inline Mathlib/Analysis/CStarAlgebra/Matrix.lean]: This doesn't need the previous result.
```suggestion
  isCompact_unitaryGroup.inter_right <| isClosed_singleton.preimage (by dsimp; fun_prop)
```

**Review by j-loreaux — COMMENTED** [review]
Did you use AI for this PR? You *must* disclose this.

One thing that this approach fails to capture is that the unitary group of a C⋆-algebra which is also a proper space (i.e., finite dimensional) is compact as well. It would be possible to prove that instead, and then use the C⋆-norm instead of the sup norm to get these results. However, given that they are short enough, I won't require it for this PR.

File: Mathlib/Analysis/CStarAlgebra/Matrix.lean (hunk 1 above)
Comment (anovickis) [reply Mathlib/Analysis/CStarAlgebra/Matrix.lean:92]: safe to remove, leftover. Thx.

File: Mathlib/Analysis/CStarAlgebra/Matrix.lean (hunk 2 above)
Comment (anovickis) [reply Mathlib/Analysis/CStarAlgebra/Matrix.lean:93]: yes this is cleaner, adding also - build passes

File: Mathlib/Analysis/CStarAlgebra/Matrix.lean (hunk 3 above)
Comment (anovickis) [reply Mathlib/Analysis/CStarAlgebra/Matrix.lean:101]: Agree - I didn't generlize this yet - future pr

File: Mathlib/Analysis/CStarAlgebra/Matrix.lean (hunk 1 above)
Comment (wwylele) [reply Mathlib/Analysis/CStarAlgebra/Matrix.lean:92]: You haven't resolved this
